US08110687B2
Step 4: 6-Hydroxyquinoline-3-carboxylic acid
Ethyl 6-methoxyquinoline-3-carboxylate (500 mg, 2.0 mmol) in 48% aq. HBr (5 mL) was subjected to MWI at 140° C. for 5 min. 6-Hydroxyquinoline-3-carboxylic acid precipitated from the reaction mixture and was collected by filtration. 1H NMR (300 MHz, CD3OD): δ 9.50 (d, 1H), 9.36 (d, 1H), 8.18 (d, 1H), 7.83 (dd, 1H), and 7.64 (d, 1H). LCMS: (FA) ES+ 190.1.

reactant | Ethyl 6-methoxyquinoline-3-carboxylate | 2.0 mmol, 500 mg | COC=1C=C2C=C(C=NC2=CC1)C(=O)OCC | C13H13NO3
solvent | HBr | 5 mL | Br | BrH
product | 6-Hydroxyquinoline-3-carboxylic acid | OC=1C=C2C=C(C=NC2=CC1)C(=O)O | C10H7NO3
